US08258160B2
Synthesis of methyl 2-(4-(4-chlorobenzyl)-3-methyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-4-methylthiazole-5-carboxylate
To a solution of methyl 2-hydrazinyl-4-methylthiazole-5-carboxylate (0.25 g, 1.33 mmol) and 2-(4-chlorobenzyl)acetoacetic ethyl ester (0.24 g, 0.93 mmol) in ethanol (10 mL) and water (1 mL) was added 1 drop of acetic acid at ambient temperature. The reaction mixture was heated to reflux for 17 hours, cooled to ambient temperature. The precipitate was collected by filtration and titrated with ethyl ether to afford the title compound in 42% yield (0.22 g): 1H NMR (300 MHz, DMSO-d6) δ 7.27 (d, J=8.5 Hz, 2H), 7.21 (d, J=8.5 Hz, 2H), 3.78 (s, 3H), 3.52 (s, 2H), 2.58 (s, 3H), 2.14 (s, 3H); MS (ES+) m/z 378.1 (M+1).

reactant | methyl 2-hydrazinyl-4-methylthiazole-5-carboxylate | 1.33 mmol, 0.25 g | N(N)C=1SC(=C(N1)C)C(=O)OC | C6H9N3O2S
reactant | 2-(4-chlorobenzyl)acetoacetic ethyl ester | 0.93 mmol, 0.24 g | C(C)OC(C(C(=O)C)CC1=CC=C(C=C1)Cl)=O | C13H15ClO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | methyl 2-(4-(4-chlorobenzyl)-3-methyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-4-methylthiazole-5-carboxylate | 42% yield | ClC1=CC=C(CC2=C(NN(C2=O)C=2SC(=C(N2)C)C(=O)OC)C)C=C1 | C17H16ClN3O3S
